US05356926
Methyl 2-hydroxy-4-[[[5-methoxy-3-(1-methylethoxy)benzo[b]thien-2-yl]carbonyl]amino]benzoate
Following a procedure analogous to Example 12, 5-methoxy-3-(1-methylethoxy)benzo[b]thiophene-2-carboxylic acid (200 mg, 0.75 mmol) and methyl 4-aminosalicylate (117 mg, 0.70 mmol) [obtained by esterification of 4-aminosalicylic acid, sodium salt (Sigma) with iodomethane] provides 172 mg (59%) of product; mp 158.5°-160° C.

reactant | 5-methoxy-3-(1-methylethoxy)benzo[b]thiophene-2-carboxylic acid | 0.75 mmol, 200 mg | COC1=CC2=C(SC(=C2OC(C)C)C(=O)O)C=C1 | C13H14O4S
reactant | methyl 4-aminosalicylate | 0.70 mmol, 117 mg | NC=1C=C(C(C(=O)OC)=CC1)O | C8H9NO3
product | Methyl 2-hydroxy-4-[[[5-methoxy-3-(1-methylethoxy)benzo[b]thien-2-yl]carbonyl]amino]benzoate | 172 mg, 59% | OC1=C(C(=O)OC)C=CC(=C1)NC(=O)C1=C(C2=C(S1)C=CC(=C2)OC)OC(C)C | C21H21NO6S
